US05000775
Ethyl 2-(cyclopentylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 4, 7.68 g (60 mmol) of cyclopentyl urea was reacted with 10.9 g (50 mmol) of ethyl 2-chloro-4,4,4-trifluoroacetoacetate at 140°-150° C. for 18 hours. The product was separated and then recrystallized from methylcyclohexane to yield 5.0 g of a white solid product (m.p.=41°-42° C.) identified in Table I.

reactant | cyclopentyl urea | 60 mmol, 7.68 g | C1(CCCC1)NC(=O)N | C6H12N2O
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 50 mmol, 10.9 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
product | Ethyl 2-(cyclopentylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 5.0 g | C1(CCCC1)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C12H15F3N2O3
